US04451283
2-Amino-3-methylthio-6-(p-fluorophenyl)-5-oxo-2,5-dihydro-1,2,4-triazine (1.0 g) was added to a mixture of an aqueous solution of 40% dimethylamine (5 ml) and acetonitrile (10 ml), and the resultant mixture was heated under reflux for 1 hour. After completion of the reaction, the resultant mixture was evaporated to dryness under reduced pressure to give a crude product. Recrystallization of the crude product from acetone gave 0.7 g of 2-amino-3-dimethylamino-6-(p-fluorophenyl)-5-oxo-2,5-dihydro-1,2,4-triazine in 53% yield. M.P., 212° C.

reactant | 2-Amino-3-methylthio-6-(p-fluorophenyl)-5-oxo-2,5-dihydro-1,2,4-triazine | 1.0 g | NN1N=C(C(N=C1SC)=O)C1=CC=C(C=C1)F | C10H9FN4OS
reactant | dimethylamine | 5 ml | CNC | C2H7N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 2-amino-3-dimethylamino-6-(p-fluorophenyl)-5-oxo-2,5-dihydro-1,2,4-triazine | 0.7 g, 53% yield | NN1N=C(C(N=C1N(C)C)=O)C1=CC=C(C=C1)F | C11H12FN5O
